US05827890
N-Methyl-2-(S)-benzyloxycarbonylamino-3.3-dimethyl-butanamide
N-Benzyloxycarbonyl tert-leucine (24.7 mmol, 6.56 g) was taken up in dry THF (50 ml) and the solution cooled to -40° C. under a nitrogen atmosphere. Ethyl chloroformate (26 mmol, 2.84 g) was added and the solution left to stir for 10 min. N-methylmorpholine (52 mmol, 5.24 g) was added and the solution stirred for 50 min between -20° C. and -40° C. before adding neat methylamine hydrochloride (24.7 mmol, 1.67 g). The solution was allowed to warm to RT and stirred at this temperature for 18 hr. The solution was poured into 10% HCl (50 ml), extracted with EtOAc (50 ml×3), the combined organic layer washed with saturated sodium bicarbonate solution (1×55 ml), then brine (1×50 ml), dried (MgSO4) and the solvent removed in vacuo to give the title compound (5.72 g) as an off-white solid. δH (CDCl3) 1.0 (9H, s), 2.75 (3H, d), 3.6 (1H, d), 5.0-5.1 (2H, m), 5.65 (1H, d), 6.25 (1H, s), 7.25-7.4 (5H, m) and 8.0 (1H, s).

reactant | N-Benzyloxycarbonyl tert-leucine | 24.7 mmol, 6.56 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)(C)C)C(=O)O | C14H19NO4
reactant | Ethyl chloroformate | 26 mmol, 2.84 g | ClC(=O)OCC | C3H5ClO2
reactant | N-methylmorpholine | 52 mmol, 5.24 g | CN1CCOCC1 | C5H11NO
reactant | methylamine hydrochloride | 24.7 mmol, 1.67 g | Cl.CN
reactant | HCl | 50 ml | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-Methyl-2-(S)-benzyloxycarbonylamino-3.3-dimethyl-butanamide | 5.72 g | CNC([C@H](C(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C15H22N2O3
